US05852011
4-[N,N-Bis(2-hydroxyethyl)amino]-3-chloro-nitrobenzene
Dissolved in 8 ml of DMSO were 10.0 g (57.0 mmol) of 3-chloro-4-fluronitrobenzene and 8.6 g (82 mmol) of diethanolamine. The thus-obtained mixture was stirred under heat for 2 hours at 140° C., followed by extraction with ethyl acetate. The solvent was distilled out under reduced pressure, whereby 9.5 g of the title compound were obtained as a yellow oil (yield: 64%).

reactant | 3-chloro-4-fluronitrobenzene | 57.0 mmol, 10.0 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | diethanolamine | 82 mmol, 8.6 g | N(CCO)CCO | C4H11NO2
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 4-[N,N-Bis(2-hydroxyethyl)amino]-3-chloro-nitrobenzene | 9.5 g | OCCN(CCO)C1=C(C=C(C=C1)[N+](=O)[O-])Cl | C10H13ClN2O4
